US03958003
p-Fluoro-4-(3-hydroxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone
8.5 g of spiro[indan-1,3'-pyrrolidin]-3-ol, 12.0 g of 4-chloro-p-fluorobutyrophenone and 11.5 g of sodium carbonate are heated at reflux in 100 cc of dimethyl formamide while stirring for 20 hours. After cooling, filtration is effected, the filtrate is evaporated to dryness, taken up in 300 cc of chloroform and extracted thrice with 50 cc amounts of 2 N hydrochloric acid. The acid extract is rendered alkaline with 2 N caustic soda solution while cooling and extraction is effected with chloroform. The crude title compound, obtained as oil after concentrating the chloroform phase by evaporation, is converted into the hydrogen fumarate with fumaric acid. The hydrogen fumarate of the title compound has a M.P. of 174°-176° (from ethanol/ether).

reactant | spiro[indan-1,3'-pyrrolidin]-3-ol | 8.5 g | N1CC2(CC1)CC(C1=CC=CC=C12)O | C12H15NO
reactant | 4-chloro-p-fluorobutyrophenone | 12.0 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | sodium carbonate | 11.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethyl formamide | 100 cc | CN(C=O)C | C3H7NO
product | p-Fluoro-4-(3-hydroxyspiro[indan-1,3'-pyrrolidin]-1'-yl) butyrophenone | FC1=CC=C(C=C1)C(CCCN1CC2(CC1)CC(C1=CC=CC=C12)O)=O | C22H24FNO2
